US06376685B1
A solution of N-tert-butoxycarbonyl-3(S)-amino-2(R)-hydroxy-4-phenylbutyric acid methyl ester 154.7 g dissolved in ethanol 300 ml was kept at 5-15° C. and mixed with sodium borohydride 24.6 g and stirred at 15-45° C. for 3hrs. The reaction solution was cooled and adjusted with 3N-HCl to pH 2.5-3.5. Water was added to the resultant solution and then the obtained solution was cooled to 5° C. or lower to deposit crystals. The crystals were filtered, dissolved in ethyl acetate, and washed with aqueous 5% sodium bicarbonate solution to separate an organic phase, which was washed with aqueous 10% sodium chloride solution and concentrated under an reduced pressure to obtain the crude N-tert-butoxycarbonyl-3(S)-amino-2(R)-hydroxy-4-phenyl-1-butanol.

reactant | N-tert-butoxycarbonyl-3(S)-amino-2(R)-hydroxy-4-phenylbutyric acid methyl ester | 154.7 g | COC([C@@H]([C@H](CC1=CC=CC=C1)NC(=O)OC(C)(C)C)O)=O | C16H23NO5
reactant | sodium borohydride | 24.6 g | [BH4-].[Na+]
reactant | HCl | Cl | ClH
reactant | Water | O | H2O
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | N-tert-butoxycarbonyl-3(S)-amino-2(R)-hydroxy-4-phenyl-1-butanol | C(C)(C)(C)OC(=O)N[C@H]([C@H](CO)O)CC1=CC=CC=C1 | C15H23NO4
